US05814651
4-(2-Methyl-3H-imidazo[4,5-b]pyridin-3-yl)phenol
A mixture of (1.0 g, 4.97 mmol, 1.0 eq) 4-[(3-amino-2-pyridinyl)amino]phenol in 25 ml of valeric anhydride was heated to reflux for 8 hours. The reaction mixture was cooled, poured into 150 ml of 0.5N HCl, stirred 10 minutes, and extracted twice with ether. The ether extracts were combined, washed three times with saturated NaHCO3, once with H2O, once with brine, dried over MgSO4, and concentrated to give an oil. The oil was taken up in 100 ml CH3 OH and treated with 60 ml of 2N NaOH and allowed to stir at room temperature for 1 hour. The mixture was concentrated, poured into 200 ml of H2O and washed twice with ether. The aqueous layer was neutralized, and extracted twice with ethyl acetate. The ethyl acetate extracts were combined, washed once with H2O, dried over MgSO4, and concentrated to give 0.7 g of a solid. Silica gel chromatography eluting with 10% CH3OH/CH2Cl2 gave 510 mg, 38%, of a solid. M.P.: 268°-2690° C.

reactant | 4-[(3-amino-2-pyridinyl)amino]phenol | 4.97 mmol, 1.0 g, 1.0 eq | NC=1C(=NC=CC1)NC1=CC=C(C=C1)O | C11H11N3O
reactant | HCl | 0.5N, 150 ml | Cl | ClH
reactant | NaOH | 2N, 60 ml | [OH-].[Na+]
reactant | valeric anhydride | 25 ml | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
product | 4-(2-Methyl-3H-imidazo[4,5-b]pyridin-3-yl)phenol | 0.7 g | CC1=NC=2C(=NC=CC2)N1C1=CC=C(C=C1)O | C13H11N3O
